US07354917B2
N-Benzyl-N-{2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]-ethyl}methanesulfonamide
To a suspension of NaH (60% in oil, 0.039 g, 1.64 mmol) in dry DMF (10 mL) was added N-{2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]-non-3-yl]ethyl}methanesulfonamide (0.3 g, 0.82 mmol; see Preparation M above) at 0° C. The reaction mixture was stirred for 1 h at room temperature. Benzyl bromide (0.155 g, 0.9 mmol) was added at 0° C. and the reaction mixture stirred at rt for 2 h. The reaction quenched with water, extracted with dichloromethane, washed with water, brine and then dried over sodium sulfate. Solvent evaporation under reduced pressure, followed by column chromatography of the residue over silica gel (using 5% methanol in chloroform as eluent) gave 160 mg of the title compound as a pale yellow solid.

reactant | NaH | 1.64 mmol, 0.039 g | [H-].[Na+]
reactant | N-{2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]-non-3-yl]ethyl}methanesulfonamide | 0.82 mmol, 0.3 g | C(#N)C1=CC=C(CN2CC3CN(CC(C2)O3)CCNS(=O)(=O)C)C=C1 | C17H24N4O3S
reactant | Benzyl bromide | 0.9 mmol, 0.155 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-Benzyl-N-{2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]-ethyl}methanesulfonamide | 160 mg | C(C1=CC=CC=C1)N(S(=O)(=O)C)CCN1CC2CN(CC(C1)O2)CC2=CC=C(C=C2)C#N | C24H30N4O3S
